US07579359B2
A solution of N′-(4-chloroquinolin-3-yl)-N,N-dimethylimidoformamide (10.9 g, 46.6 mmol) and O-methylhydroxylamine hydrochloride (3.9 g, 47 mmol) in ethanol (100 mL) was heated at reflux for 4.5 hours. An analysis by LC/MS indicated the reaction was incomplete, and additional O-methylhydroxylamine hydrochloride (2.0 g, 24 mmol) was added. The reaction was heated at reflux overnight, allowed to cool to room temperature, and concentrated under reduced pressure. The work-up and purification procedures described in Part C of Example 19 were followed with the modification that chromatographic purification was carried out eluting with 5% methanol in dichloromethane containing 3 mL of aqueous ammonium hydroxide per liter of eluent. 1-Methoxy-1H-imidazo[4,5-c]quinoline (approximately 3.7 g) was obtained as a red solid.

reactant | N′-(4-chloroquinolin-3-yl)-N,N-dimethylimidoformamide | 46.6 mmol, 10.9 g | ClC1=C(C=NC2=CC=CC=C12)N=CN(C)C | C12H12ClN3
reactant | O-methylhydroxylamine hydrochloride | 47 mmol, 3.9 g | Cl.CON
reactant | O-methylhydroxylamine hydrochloride | 24 mmol, 2.0 g | Cl.CON
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-Methoxy-1H-imidazo[4,5-c]quinoline | approximately 3.7 g | CON1C=NC=2C=NC=3C=CC=CC3C21 | C11H9N3O
